US06413991B1
4-(4-Cyanophenoxy)benzoic acid
A mixture of 4-hydroxybenzoic acid (3.50 g, 25 mmol), 4-fluorobenzonitrile (3.00 g, 35 mmol), and powdered K2CO3 (6.80 g, 49 mmol) were heated in DMAC (50 mL) at 140° C. for 20 hours. The cooled mixture was then acidified with 1N HCl and extracted with EtOAc (3×50 mL). Concentration of the extracts in vacuo left a residue which was chromatographed over silica gel (5% MeOH/CHCl3) to provide 2.30 g (39%) of pure product. MS (FD+) 238.9.

reactant | 4-hydroxybenzoic acid | 25 mmol, 3.50 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 4-fluorobenzonitrile | 35 mmol, 3.00 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | K2CO3 | 49 mmol, 6.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | DMAC | 50 mL | CC(=O)N(C)C | C4H9NO
product | 4-(4-Cyanophenoxy)benzoic acid | 2.30 g, 39% | C(#N)C1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1 | C14H9NO3
